US07576089B2
1-tert-Butyl 2-Methyl (4R)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-methylpyrrolidine-1,2-dicarboxylate
To a solution of 1-tert-butyl 2-methyl (2S,4R)-4-{[tert-butyl(dimethyl)silyl]oxy}pyrrolidine-1,2-dicarboxylate (5.11 g, 14.2 mmol) in dry THF (60 mL) at −78° C. was dropwise added lithium bistrimethylsilylamide (17.0 mL, 17.0 mmol, 1.0 M in THF). After being stirred for 30 minutes, iodomethane (1.77 mL, 28.4 mmol) was then added. The mixture was stirred at −78° C. for one hour, warmed to 0° C. for one hour and finally quenched with NaHCO3/H2O. The resulting mixture was extracted twice with ethyl acetate. The combined extracts were dried over MgSO4, filtered and concentrated. The residue was chromatographed on silica gel eluting with hexane to 5% ethyl acetate/hexane to provide 2.66 g (50%) of a mixture of product isomers as a colorless oil. LC/MS (M-Boc+H)+ m/z=274.1. 1H NMR (CDCl3) δ 4.38 (m, 1H), 3.71 (m, 4H), 3.36 (m, 1H), 1.84-2.35 (m, 2H), 1.61 (m, 3H), 1.44 (m, 9H), 0.88 (m, 9H), 0.07 (m, 6H).

reactant | 1-tert-butyl 2-methyl (2S,4R)-4-{[tert-butyl(dimethyl)silyl]oxy}pyrrolidine-1,2-dicarboxylate | 14.2 mmol, 5.11 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C17H33NO5Si
reactant | lithium bistrimethylsilylamide | 17.0 mmol, 1.0 M, 17.0 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | iodomethane | 28.4 mmol, 1.77 mL | IC | CH3I
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 1-tert-Butyl 2-Methyl (4R)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-methylpyrrolidine-1,2-dicarboxylate | 2.66 g, 50% | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC(N(C1)C(=O)OC(C)(C)C)(C(=O)OC)C | C18H35NO5Si
